data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7890,"CC#CC(C)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2484,"C1=CC=CC=C1.C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC[C:1](C)([OH2+:2])[N:3]1C1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1745,"C[O+](C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5CC2CC2)C=C1)[B-:1](Br)(Br)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,8032,"CP(C)(C)=[O:1].CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2078,"C1=CC=[N:1]C=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7014,"CCOCC.C[NH2+]C.O=P(Cl)(Cl)Cl.OC1=CC=C(C2=COC3=C(C(O)=CC(O)=C3)C2=[O+:1][B-:2](F)(F)F)C=C1.[Cl-]|((2, 1), 1)"
train,pmechdb_split_0,0,8025,"CC(=O)N1CCOC23C=C([O-:1])C(=O)C2(CCC24OC23CC(O[Si](C)(C)C(C)(C)C)C2CC(O[Si](C)(C)C(C)(C)C)CCC24)C1.CC(C)(C)[Si](C)(C)F.CN(C)S(N(C)C)=[N+](C)C.C[Si](C)(C)F.O=S(=O)(N(C1=CC=CC=C1)[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1272,"C[Si:1](C)(C)Br.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,436,"CS(=O)(=NC1=CC2=C(C=CC=C2)[C:1]2=[CH:2][CH:3]=[S+:4][C:5]12[H:6])C1=CC=CC=C1.O=S(=O)(C(F)(F)F)[N-:7]S(=O)(=O)C(F)(F)F|(7, 6);((6, 5), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5697,"C[P+](C)(C)[CH:1]=[CH2:2].[K][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3867,"COC(=O)N1CCCC1C[CH+:1][CH2:2][Si-:3](C)(C)(C)[O+](C)[Ti-]([Cl])([Cl])([Cl])[Cl]|((3, 2), 1)"
train,pmechdb_split_0,0,2062,"C=CCN1CCC23C=CCCC2(O)C1CC1=C3C([O-:1])=C(OC)C=C1.N#N.[H:2][OH:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,751,"COC1=C2OC3C45CCN(CC6CCC6)C(CC(=C24)C=C1)C5(O)CCC3([NH2+]N)[O-:1].OCCOCCO.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2321,"CCC(C)C(C)(CC)[O-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,1224,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.COC1=CC=C(OCC(C)(C2(SC3=CC=CC=C3)CC2)[OH:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,719,"CC(C)(Cl)C=O.COC(=O)[CH:1](C(=O)OC)[H:2].O=C([O-])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4308,"CCO[C:1](CCC(=O)NC)=[O:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5744,"CC(C)C(N)C(=O)[O-:1].CC1=C2CCC(=O)C2(C)CCC1(NC(C(=O)O)C(C)C)[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5937,"CCO[C:1](C)([OH:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4667,"CC(C)[C+:1]1C=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8628,"CNC(=O)C(C)[NH+:1](C([O-])(OC(NC(C)C)=[N:2]C(C)C)C(C)NC(=O)OC)[H:3]|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,9208,"Br[CH:1]([H:2])[C:3](C1=CC=CC=C1)=[O:4].COC(=O)C(=O)C1=CC=CC=C1.[K][O]C([O][K])=[O:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5916,"C[O-].C[O:1][C:2](C1=CC=CC=C1)(C1=CC=CC=C1)[O-:3].[Mg+][Br]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,726,"CC(C)[O-].CCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)CC1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3097,"CO[C:1](O)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,788,"CC[CH:1]=[N+:2](C)C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6574,"C1=CC=C([C:1](C2CCC3(CC2)OCCO3)=[O:2])C=C1.C1=CC=[C:3]([Li:4])C=C1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,536,"CCO[C:1](C)=[O:2].N#C[CH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8499,"CC(C)(C)[Si](C)(C)OC(C1CCCCC1)[CH:1]=[O+:2][B-](F)(F)F.CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[CH2][CH:3]=[CH2:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8930,"[CH2:1]([OH:2])[F:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5591,"C[C:1]1=[CH:2]CCCC1(C1=CC=CC=C1)C1=CC=CC=C1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9651,"C#CC1([OH+][Li:1])CCC2(C)CCC(C)(C)C21.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,10324,"CC1(C)CCC[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4853,"BrC[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,8201,"CCC(C)(C)[C:1]1([H:2])C=CC=C[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2460,"C[NH:1]CCCO[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3141,"CCC(=O)N[C:1]1=[CH:2]C=C(Br)C=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4811,"CCC(C)C(C(=O)NC1CCCCC1)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9826,"CC(=O)O[CH:1]=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,942,"C[P+:1](C)(C)Br.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,2311,"CO[P:1](OC)OC.[Cl:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,163,"COC=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9147,"OCCOC1([OH+:1][H:2])CCC(C(O)(C2=CC=CC=C2)C2=CC=CC=C2)CC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9599,"C1=CC2OC1CCC2=[O+:1][H:2].N#N.O=S(=O)([O-])O.[Na+].[OH2:3]|(3, 2);((2, 1), 1)"
